US06479536B1
2-[3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]isoindoline
By using 2-[3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione, the title compound was synthesized according to Example 2a. Yield: 70%. Melting point: 126-129° C. (Ethanol)

reactant | 2-[3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)N2C(C1=CC=CC=C1C2=O)=O)C)C | C29H27NO3
solvent | Ethanol | C(C)O | C2H6O
product | 2-[3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-1-benzofuran-5-yl]isoindoline | Yield: 70% | C(C)(C)C1=CC=C(C=C1)C1=C(OC2=C1C(=C(C(=C2C)C)N2CC1=CC=CC=C1C2)C)C | C29H31NO
